US05550134
(+)-(4aR)-(10bR)-4-methyl-8-[2-(t-butylcarbonylamino)-5-pyridinyl]-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one-8-boronic acid 178 mg, 0.65 mmol), tetrakis (triphenylphosphine) palladium (0) (23 mg, 0.02 mmol), 5-bromo-2-(t-butylcarbonylamino)pyridine 167 mg, 0.65 mmol), 0.65 mL of 2M aqueous sodium carbonate and mL of THF, fitted with a reflux condenser, and the stirred mixture was heated at 80°, under nitrogen, for 24 h. The mixture was cooled, diluted with ethyl acetate (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (ethyl acetate eluent) to give 84 mg (32%) of the title compound as a brown solid. mp 248°-250°. FDMS: m/e=405. α[D]589 =+70.74 (c=0.45, chloroform).

reactant | 5-bromo-2-(t-butylcarbonylamino)pyridine | 0.65 mmol, 167 mg | BrC=1C=CC(=NC1)NC(=O)C(C)(C)C | C10H13BrN2O
reactant | sodium carbonate | 2M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.02 mmol, 23 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (+)-(4aR)-(10bR)-4-methyl-8-[2-(t-butylcarbonylamino)-5-pyridinyl]-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 84 mg, 32% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C=3C=CC(=NC3)NC(=O)C(C)(C)C)C)=O | C25H31N3O2
